US08835628B2
2-ethyl-4-(phenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 142 μL (2.5 eq, 1.23 mmol) of benzoyl chloride was added to a mixture of 78 mg of NaH (4 eq, 1.96 mmol) and 100 mg (0.49 mmol) of oxazinone P2 in THF (9.5 ml). 58 mg of P4 were obtained, yield 77%.

reactant | benzoyl chloride | 1.23 mmol, 2.5 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaH | 1.96 mmol, 78 mg, 4 eq | [H-].[Na+]
reactant | oxazinone | 0.49 mmol, 100 mg | O1NC(CC=C1)=O | C4H5NO2
reactant | THF | 9.5 ml | C1CCOC1 | C4H8O
product | 2-ethyl-4-(phenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 77% | C(C)C1C(N(C2=C(O1)C(=CC=C2)C=CC)C(=O)C2=CC=CC=C2)=O | C20H19NO3
